US09034866B2
To a stirred mixture of 9-Bromo-4-dimethylamino-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (120 mg, 0.31 mmol) in TEA (5 mL) and DMF (1 mL) were added Pd(OAc)2 (7.0 mg, 0.03 mmol), PPh3 (24.6 mg, 0.09 mmol), CuI (11.9 mg, 0.06 mmol), 2-methylbut-3-yn-2-ol (131.5 mg, 1.56 mmol). The reaction mixture was degassed with N2 and heated in autoclave at 80° C. overnight. Then the mixture was cooled to room temperature, and EtOAc was added. The mixture was filtered though Celite, and the filtrate was washed with saturated brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography (silica gel, EtOAc in hexane from 10% to 20%) to afford 4-Dimethylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (50 mg, 41%) as a light yellow solid. LC-MS (ESI & APCI): 387.5 (M+1).

reactant | 9-Bromo-4-dimethylamino-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.31 mmol, 120 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)N(C)C | C15H15BrN2O3S
reactant | PPh3 | 0.09 mmol, 24.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-methylbut-3-yn-2-ol | 1.56 mmol, 131.5 mg | CC(C)(C#C)O | C5H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.03 mmol, 7.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.06 mmol, 11.9 mg | [Cu]I
product | 4-Dimethylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 50 mg, 41% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)N(C)C | C20H22N2O4S
